US04030908
N-Methyl-N-(2-hydroxyethyl)-N-[3-(4-methyl-3-cyclohexenyl)-butyl]amine
The procedure of Example 1 was followed using 50g (0.3 mole) of 3-(4-methyl-3-cyclohexenyl)butyraldehyde and 25g (0.33 mole) of 2-methylaminoethanol. Obtained following distillation was 27g of pure N-methyl-N-(2-hydroxyethyl)-N-[3 . . . butyl]amine as a clear, colorless liquid; bp 104°-106° (0.1mm); ir (τ max. film) 3.0 (m), 3.5 (s), 6.9 (s), 9.6 (s), 12.5 (m) microns; nmr (δ CDCl3) 5.38 (m, 1H), 3.8 (broad m, 1H) 3.6 (m, 2H), 2.5 (m, 4H), 2.2 (s, 3H), 2.1 to 0.8 (m, 16H) ppm; ms (molecular ion) 225.

reactant | 3-(4-methyl-3-cyclohexenyl)butyraldehyde | CC1=CCC(CC1)C(CC=O)C | C11H18O
reactant | 2-methylaminoethanol | CNCCO | C3H9NO
product | N-Methyl-N-(2-hydroxyethyl)-N-[3-(4-methyl-3-cyclohexenyl)-butyl]amine | CN(CCC(C)C1CC=C(CC1)C)CCO | C14H27NO
